US04626533
1.75 g. of 7-chloroacetylamino-3-acetylaminomethylceph-3-em-4-carboxylic acid and 0.42 g. of sodium hydrocarbonate were dissolved in 10 ml. of water. Thereafter 0.9 g. of 2-phenyl-5-mercapto-1,3,4-oxadiazole and 0.42 g. of sodium hydrocarbonate dissolved in a mixture of 10 ml. of water and 5 ml. of acetone were added. The reaction mixture was stirred at room temperature for 12 hours. The acetone was evaporated in vacuo. The pH of the residue was adjusted to 2 by adding some diluted sulphuric acid. The precipitate separated was removed by filtration and dried. Thus 1.83 g. of 7-(2-phenyl-1,3,4-oxadiazole-5-ylthio)acetylamino-3-acetylaminomethylceph-3-em-4-carboxylic acid were obtained.

reactant | 7-chloroacetylamino-3-acetylaminomethylceph-3-em-4-carboxylic acid | ClCC(=O)NC1[C@@H]2N(C(=C(CS2)CNC(C)=O)C(=O)O)C1=O | C12H14ClN3O5S
reactant | sodium hydrocarbonate | C(=O)(O)[O-].[Na+]
reactant | water | O | H2O
reactant | 2-phenyl-5-mercapto-1,3,4-oxadiazole | C1(=CC=CC=C1)C=1OC(=NN1)S | C8H6N2OS
solvent | acetone | CC(=O)C | C3H6O
product | 7-(2-phenyl-1,3,4-oxadiazole-5-ylthio)acetylamino-3-acetylaminomethylceph-3-em-4-carboxylic acid | Yield: 75% | C1(=CC=CC=C1)C=1OC(=NN1)SCC(=O)NC1[C@@H]2N(C(=C(CS2)CNC(C)=O)C(=O)O)C1=O | C20H19N5O6S2
